US05097004
114.0 g Dimethyl Terephthalate
3.79 g Sodium salt of dimethyl 5-sulfoisophthalate.

reactant | Sodium | 3.79 g | [Na] | Na
reactant | dimethyl 5-sulfoisophthalate | S(=O)(=O)(O)C=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C10H10O7S
product | Dimethyl Terephthalate | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
